US05362848
Sodium hydride (50% dispersion in mineral oil, 32.68 g, 0.681 mol) was washed twice with hexanes and was suspended in 600 mL of DMF. Then, 3-hydroxymethyl-3-methyloxetane (69.46 g, 0.681 mol) was added dropwise over 45 min while hydrogen gas was evolved and a beige solid precipitated. The mixture was stirred for 30 min and a solution of 3,3-bis-(chloromethyl)oxetane (40.61 g, 0.262 mol) in 50 mL of DMF was added. The mixture was heated to 100° C. for 64 h when 1H NMR analysis of an aliquot showed that the starting halide had been consumed. The mixture was poured into 600 mL of water and extracted with two portions of 200 mL of methylene chloride. The combined organic extracts were washed with 3 portions of 150 mL of water, dried over magnesium sulfate, and evaporated to give 74.8 g, representing a 91% yield of 3,3-bis-[(3-methyl-3-oxetanyl)methyloxymethyl]oxetane as an oil containing DMF (8.8%). The oil was purified by bulb-to-bulb distillation at 130° C. and 0.1-mm pressure to give 49.83 g, representing a 77% yield, of analytically pure ether.

reactant | Sodium hydride | 0.681 mol, 32.68 g | [H-].[Na+]
reactant | 3-hydroxymethyl-3-methyloxetane | 0.681 mol, 69.46 g | OCC1(COC1)C | C5H10O2
reactant | hydrogen | [H][H] | H2
reactant | 3,3-bis-(chloromethyl)oxetane | 0.262 mol, 40.61 g | ClCC1(COC1)CCl | C5H8Cl2O
solvent | DMF | 600 mL | CN(C)C=O | C3H7NO
solvent | DMF | 50 mL | CN(C)C=O | C3H7NO
product | 3,3-bis-[(3-methyl-3-oxetanyl)methyloxymethyl]oxetane | 91% yield | CC1(COC1)COCC1(COC1)COCC1(COC1)C | C15H26O5
